US08748613B2
Preparation of (3R)-3-(2-(2,4-difluorophenyl)-2-(piperidin-1-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (C103)
(R)-quinuclidin-3-yl 2-(2,4-difluorophenyl)-2-(piperidin-1-yl)acetate (275 mg, 0.75 mmol) and 2-chloro-1-phenylethanone (128 mg, 0.83 mmol) were dissolved in acetonitrile (8 ml) and stirred at room temperature overnight. The solvent was evaporated and the residue was triturated with Et2O and sonicated. The resulting precipitate was recovered by suction filtration and washed on the filter-paper with EtOAc and Et2O to obtain the title compound (261 mg, 66.6% yield) as a white solid.

reactant | (R)-quinuclidin-3-yl 2-(2,4-difluorophenyl)-2-(piperidin-1-yl)acetate | 0.75 mmol, 275 mg | FC1=C(C=CC(=C1)F)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H26F2N2O2
reactant | 2-chloro-1-phenylethanone | 0.83 mmol, 128 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | (3R)-3-(2-(2,4-difluorophenyl)-2-(piperidin-1-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 261 mg, 66.6% yield | [Cl-].FC1=C(C=CC(=C1)F)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)N2CCCCC2 | InChI=1S/C28H33F2N2O3.ClH/c29-22-9-10-23(24(30)17-22)27(31-13-5-2-6-14-31)28(34)35-26-19-32(15-11-21(26)12-16-32)18-25(33)20-7-3-1-4-8-20;/h1,3-4,7-10,17,21,26-27H,2,5-6,11-16,18-19H2;1H/q+1;/p-1/t21?,26-,27?,32?;/m0./s1
